US04602028
4.9 g (12.3 mmol) of ethyl[[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]sulfonyl]acetate was added to 500 ml of methanol and 40 ml of 15% aqueous NaOH was added to the suspension. A yellow solution resulted and within 15 minutes a creamy precipitate formed. After stirring four hours at room temperature the reaction mixture was poured into an ice/dilute HCl mixture and the precipitate was filtered, dried, and recrystallized from toluene to afford a white solid, 2.5 g of [[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]sulfonyl]acetic acid , m.p. 204° C.

reactant | ethyl[[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]sulfonyl]acetate | 12.3 mmol, 4.9 g | C(C)OC(CS(=O)(=O)C1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1)Cl)=O | C17H13ClFNO5S
reactant | NaOH | 40 ml | [OH-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | [[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]sulfonyl]acetic acid | 2.5 g | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)S(=O)(=O)CC(=O)O | C15H9ClFNO5S
